US09326987B2
6-Bromo-4-nitro-2-(tetrahydro-2H-pyran-2-yl)-2H-indazole
To 6-bromo-4-nitro-1H-indazole (10 g) in dihydropyran (100 ml) was added TFA (0.068 ml) and the reaction was heated for 1.5 h at reflux. After cooling, DCM (180 ml) and saturated sodium bicarbonate solution (50 ml) was added and stirred for 10 min. The DCM was separated from the aq which was re-washed with DCM (70 ml). The combined organic layers were passed through a hydrophobic frit and evaporated to dryness. The residual solid was triturated with ether then filtered. The solid material was dissolved in DCM and purified by chromatography on silica on the ISCO Companion, using an isocratic gradient of DCM. Purified fractions were combined and evaporated to dryness to afford the title compound, 7.78 g.

reactant | 6-bromo-4-nitro-1H-indazole | 10 g | BrC1=CC(=C2C=NNC2=C1)[N+](=O)[O-] | C7H4BrN3O2
reactant | TFA | 0.068 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 180 ml | C(Cl)Cl | CH2Cl2
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
reactant | dihydropyran | 100 ml | O1CCCC=C1 | C5H8O
product | 6-Bromo-4-nitro-2-(tetrahydro-2H-pyran-2-yl)-2H-indazole | BrC=1C=C(C2=CN(N=C2C1)C1OCCCC1)[N+](=O)[O-] | C12H12BrN3O3
